US06248743B1
To a solution of diisopropylamine (1.33 ml) in tetrahydrofuran (20 ml) is added gradually and dropwise a 1.6 N solution of n-butyl lithium in hexane (5.91 ml) at 0° C., and the mixture is stirred at the same temperature for 30 minutes. The solution is cooled to −78° C., and thereto is added gradually and dropwise a solution of (Z)-4-(3-chloro-4,5-dimethoxyphenyl)-4-methyl-3-methoxycarbonyl-3-butenoic acid methoxymethyl ester (2.94 g) in tetrahydrofuran (20 ml), and the mixture is further stirred at the same temperature for 30 minutes. The reaction mixture is cooled to −90° C., and thereto is added gradually and dropwise a solution of isonictinaldehyde (1.01 g) in tetrahydrofuran (10 ml), and the mixture is stirred at −90° C. for 20 minutes. To the reaction mixture is added a saturated aqueous ammonium chloride solution, and the mixture is extracted with ethyl acetate. The organic layer is washed, dried, and concentrated under reduced pressure to remove the solvent to give (Z)-4-(3-chloro-4,5-dimethoxyphenyl)-4-methyl-3-methoxycarbonyl-2-(4-pyridylhydroxymethyl)-3-butenoic acid methoxymethyl ester.

reactant | diisopropylamine | 1.33 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | (Z)-4-(3-chloro-4,5-dimethoxyphenyl)-4-methyl-3-methoxycarbonyl-3-butenoic acid methoxymethyl ester | 2.94 g | COCOC(C/C(=C(\C)/C1=CC(=C(C(=C1)OC)OC)Cl)/C(=O)OC)=O | C17H21ClO7
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 5.91 ml | CCCCCC | C6H14
product | (Z)-4-(3-chloro-4,5-dimethoxyphenyl)-4-methyl-3-methoxycarbonyl-2-(4-pyridylhydroxymethyl)-3-butenoic acid methoxymethyl ester | COCOC(C(/C(=C(\C)/C1=CC(=C(C(=C1)OC)OC)Cl)/C(=O)OC)C(O)C1=CC=NC=C1)=O | C23H26ClNO8
